US07241791B2
4-[1-(5-bromo-2-methylphenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.5 g, 2 mmol), sodium acetate (0.25 g, 3 mmol) and 5-bromophenylhydrazine hydrochloride (0.440 g, 2.4 mmol) to give 0.082 g of product as an off-white solid

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 2 mmol, 0.5 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 3 mmol, 0.25 g | C(C)(=O)[O-].[Na+]
reactant | 5-bromophenylhydrazine hydrochloride | 2.4 mmol, 0.440 g | Cl.BrC=1C=CC=C(C1)NN
product | 4-[1-(5-bromo-2-methylphenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol | 0.082 g | BrC=1C=CC(=C(C1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O)C | C20H15BrN2O3
